US04833212
(Synthesis of DBU/NiCl2 complex)
152.2 g (1.0 mole) of DBU and 64.8 g(0.5 moles) of anhydrous NiCl2 were subjected to reaction at 180° C. for 4 hours in the absence of a solvent, and the reaction mixture was poured into acetone. The deposited crystals were ricovered therefrom by filtration, washed with acetone and dried, whereby 120.5 g of DBU/NiCl2 complex compound was obtained (yield: 55.5%).

reactant | DBU | 1.0 mole, 152.2 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | NiCl2 | 0.5 moles, 64.8 g | Cl[Ni]Cl
solvent | acetone | CC(=O)C | C3H6O
product | DBU NiCl2 | yield: 55.5% | C1CCC2=NCCCN2CC1.Cl[Ni]Cl | InChI=1S/C9H16N2.2ClH.Ni/c1-2-5-9-10-6-4-8-11(9)7-3-1;;;/h1-8H2;2*1H;/q;;;+2/p-2
